US04885367
To 10 ml of an acetone solution containing 0.50 g of N-[2-(2-hydroxycyclohexyloxy)phenyl]methanesulfonamide was added 0.5 g of 8N Jones reagent (chromic acid-sulfuric acid) under ice cooling with stirring, and the mixture was stirred for 1 hour. Then, to the reaction solution was added 1 ml of isopropyl alcohol and water, and the mixture was extracted with dichloromethane. The dichloromethane layer was washed, in turn, with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (eluent; n-hexane:dichloromethane=1:1) and then recrystallized from ethanol-n-hexane to give 0.21 g of N-[2-(2-oxocyclohexyloxy)phenyl]methanesulfonamide.

reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | N-[2-(2-hydroxycyclohexyloxy)phenyl]methanesulfonamide | 0.50 g | OC1C(CCCC1)OC1=C(C=CC=C1)NS(=O)(=O)C | C13H19NO4S
reactant | Jones reagent | 8N, 0.5 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropyl alcohol | 1 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | N-[2-(2-oxocyclohexyloxy)phenyl]methanesulfonamide | 0.21 g | O=C1C(CCCC1)OC1=C(C=CC=C1)NS(=O)(=O)C | C13H17NO4S
